** Name: SimpleOpAmp72

.MACRO SimpleOpAmp72 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=4e-6 W=15e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=196e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=15e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=14e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=213e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=167e-6
mNormalTransistorNmos7 out FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=15e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=62e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=62e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=196e-6
mNormalTransistorNmos11 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=15e-6
mNormalTransistorPmos12 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=234e-6
mNormalTransistorPmos13 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=234e-6
mNormalTransistorPmos14 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=306e-6
mNormalTransistorPmos15 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=306e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp72

** Expected Performance Values: 
** Gain: 51 dB
** Power consumption: 2.20201 mW
** Area: 3971 (mu_m)^2
** Transit frequency: 13.0011 MHz
** Transit frequency with error factor: 13.0008 MHz
** Slew rate: 11.1185 V/mu_s
** Phase margin: 85.3708°
** CMRR: 101 dB
** VoutMax: 4.12001 V
** VoutMin: 0.380001 V
** VcmMax: 5.23001 V
** VcmMin: 1.32001 V


** Expected Currents: 
** NormalTransistorNmos: 111.753 muA
** NormalTransistorPmos: -95.0349 muA
** NormalTransistorPmos: -159.365 muA
** NormalTransistorPmos: -95.0349 muA
** NormalTransistorPmos: -159.365 muA
** DiodeTransistorNmos: 95.0341 muA
** NormalTransistorNmos: 95.0341 muA
** NormalTransistorNmos: 128.662 muA
** DiodeTransistorNmos: 128.663 muA
** NormalTransistorNmos: 64.3301 muA
** NormalTransistorNmos: 64.3301 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -111.752 muA
** DiodeTransistorPmos: -111.753 muA


** Expected Voltages: 
** ibias: 1.16301  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.582001  V
** outSourceVoltageBiasXXpXX1: 4.26501  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.790001  V
** sourceGCC1: 3.75  V
** sourceGCC2: 3.75  V
** sourceTransconductance: 1.93801  V
** inner: 0.580001  V


.END