** Name: SimpleOpAmp73

.MACRO SimpleOpAmp73 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=4e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=21e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=41e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=22e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=34e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=89e-6
mNormalTransistorNmos7 out FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=2e-6 W=34e-6
mNormalTransistorNmos8 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=350e-6
mNormalTransistorNmos9 FirstStageYout1 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=41e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=44e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=44e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=4e-6 W=52e-6
mNormalTransistorPmos13 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=589e-6
mNormalTransistorPmos14 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=589e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=166e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=166e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp73

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 2.29601 mW
** Area: 5434 (mu_m)^2
** Transit frequency: 17.5201 MHz
** Transit frequency with error factor: 17.5205 MHz
** Slew rate: 14.1482 V/mu_s
** Phase margin: 69.328°
** CMRR: 141 dB
** VoutMax: 3.91001 V
** VoutMin: 0.880001 V
** VcmMax: 5.03001 V
** VcmMin: 1.5 V


** Expected Currents: 
** NormalTransistorNmos: 42.4641 muA
** NormalTransistorPmos: -119.606 muA
** NormalTransistorPmos: -203.411 muA
** NormalTransistorPmos: -119.606 muA
** NormalTransistorPmos: -203.411 muA
** NormalTransistorNmos: 119.607 muA
** NormalTransistorNmos: 119.607 muA
** DiodeTransistorNmos: 119.607 muA
** NormalTransistorNmos: 167.608 muA
** NormalTransistorNmos: 167.607 muA
** NormalTransistorNmos: 83.8041 muA
** NormalTransistorNmos: 83.8041 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 10.0001 muA
** DiodeTransistorPmos: -42.4649 muA
** DiodeTransistorPmos: -42.4639 muA


** Expected Voltages: 
** ibias: 1.30201  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** outSourceVoltageBiasXXpXX1: 4.06401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.590001  V
** innerStageBias: 0.507001  V
** out1: 1.28201  V
** sourceGCC1: 3.75  V
** sourceGCC2: 3.75  V
** sourceTransconductance: 1.94501  V


.END