** Name: SimpleOpAmp74

.MACRO SimpleOpAmp74 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=3e-6 W=9e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=177e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=45e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=42e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=34e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=106e-6
mNormalTransistorNmos7 out FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=1e-6 W=17e-6
mNormalTransistorNmos8 FirstStageYout1 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=45e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=166e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=166e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=177e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=9e-6
mNormalTransistorPmos13 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=389e-6
mNormalTransistorPmos14 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=389e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=73e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=73e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp74

** Expected Performance Values: 
** Gain: 84 dB
** Power consumption: 3.18801 mW
** Area: 5197 (mu_m)^2
** Transit frequency: 13.0071 MHz
** Transit frequency with error factor: 13.0068 MHz
** Slew rate: 17.4217 V/mu_s
** Phase margin: 85.3708°
** CMRR: 136 dB
** VoutMax: 3.84001 V
** VoutMin: 0.940001 V
** VcmMax: 4.96001 V
** VcmMin: 1.44001 V


** Expected Currents: 
** NormalTransistorNmos: 117.687 muA
** NormalTransistorPmos: -157.986 muA
** NormalTransistorPmos: -254.916 muA
** NormalTransistorPmos: -157.986 muA
** NormalTransistorPmos: -254.916 muA
** NormalTransistorNmos: 157.987 muA
** NormalTransistorNmos: 157.987 muA
** DiodeTransistorNmos: 157.987 muA
** NormalTransistorNmos: 193.86 muA
** DiodeTransistorNmos: 193.861 muA
** NormalTransistorNmos: 96.9291 muA
** NormalTransistorNmos: 96.9291 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -117.686 muA
** DiodeTransistorPmos: -117.687 muA


** Expected Voltages: 
** ibias: 1.20501  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.603001  V
** outSourceVoltageBiasXXpXX1: 3.99401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.608001  V
** out1: 1.34301  V
** sourceGCC1: 3.75  V
** sourceGCC2: 3.75  V
** sourceTransconductance: 1.85901  V
** inner: 0.601001  V


.END