** Name: SimpleOpAmp75

.MACRO SimpleOpAmp75 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=29e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=2e-6 W=136e-6
mDiodeTransistorPmos4 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=44e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=124e-6
mNormalTransistorNmos7 FirstStageYinnerStageBias inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=197e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=2e-6 W=136e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=77e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=77e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=45e-6
mNormalTransistorPmos12 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=16e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=52e-6
mNormalTransistorPmos15 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=128e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=128e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp75

** Expected Performance Values: 
** Gain: 87 dB
** Power consumption: 3.39701 mW
** Area: 4798 (mu_m)^2
** Transit frequency: 18.5561 MHz
** Transit frequency with error factor: 18.5565 MHz
** Slew rate: 18.1188 V/mu_s
** Phase margin: 70.4739°
** CMRR: 144 dB
** VoutMax: 3.79001 V
** VoutMin: 0.330001 V
** VcmMax: 4.93001 V
** VcmMin: 1.49001 V


** Expected Currents: 
** NormalTransistorPmos: -105.887 muA
** NormalTransistorPmos: -32.1379 muA
** NormalTransistorPmos: -152.836 muA
** NormalTransistorPmos: -260.648 muA
** NormalTransistorPmos: -152.836 muA
** NormalTransistorPmos: -260.648 muA
** DiodeTransistorNmos: 152.837 muA
** NormalTransistorNmos: 152.837 muA
** NormalTransistorNmos: 152.837 muA
** NormalTransistorNmos: 215.622 muA
** NormalTransistorNmos: 215.621 muA
** NormalTransistorNmos: 107.812 muA
** NormalTransistorNmos: 107.812 muA
** DiodeTransistorNmos: 105.888 muA
** DiodeTransistorNmos: 32.1371 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.23701  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX2: 0.566001  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 3.96101  V
** outVoltageBiasXXnXX1: 1.10901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.568001  V
** innerStageBias: 0.366001  V
** innerTransistorStack2Load2: 0.533001  V
** sourceGCC1: 3.96901  V
** sourceGCC2: 3.96901  V
** sourceTransconductance: 1.91301  V


.END