** Name: SimpleOpAmp76

.MACRO SimpleOpAmp76 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=2e-6 W=24e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=144e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=40e-6
mDiodeTransistorNmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=55e-6
mDiodeTransistorPmos5 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=43e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=3e-6 W=78e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=55e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=44e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=44e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=144e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=24e-6
mNormalTransistorPmos13 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos14 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=15e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=208e-6
mNormalTransistorPmos16 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=106e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=106e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp76

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 4.48801 mW
** Area: 4590 (mu_m)^2
** Transit frequency: 18.0531 MHz
** Transit frequency with error factor: 18.0528 MHz
** Slew rate: 15.0115 V/mu_s
** Phase margin: 69.328°
** CMRR: 146 dB
** VoutMax: 3.81001 V
** VoutMin: 0.400001 V
** VcmMax: 4.93001 V
** VcmMin: 1.31001 V


** Expected Currents: 
** NormalTransistorPmos: -30.0049 muA
** NormalTransistorPmos: -415.914 muA
** NormalTransistorPmos: -126.762 muA
** NormalTransistorPmos: -215.849 muA
** NormalTransistorPmos: -126.762 muA
** NormalTransistorPmos: -215.849 muA
** DiodeTransistorNmos: 126.763 muA
** NormalTransistorNmos: 126.763 muA
** NormalTransistorNmos: 126.763 muA
** NormalTransistorNmos: 178.172 muA
** DiodeTransistorNmos: 178.171 muA
** NormalTransistorNmos: 89.0861 muA
** NormalTransistorNmos: 89.0861 muA
** DiodeTransistorNmos: 30.0041 muA
** NormalTransistorNmos: 30.0031 muA
** DiodeTransistorNmos: 415.915 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.23501  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outInputVoltageBiasXXnXX1: 1.15201  V
** outSourceVoltageBiasXXnXX1: 0.576001  V
** outSourceVoltageBiasXXpXX1: 3.96101  V
** outVoltageBiasXXnXX2: 1.00901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.570001  V
** innerTransistorStack2Load2: 0.365001  V
** sourceGCC1: 3.95201  V
** sourceGCC2: 3.95201  V
** sourceTransconductance: 1.94001  V
** inner: 0.575001  V


.END