** Name: SimpleOpAmp77

.MACRO SimpleOpAmp77 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=9e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=21e-6
mDiodeTransistorNmos3 FirstStageYinnerOutputLoad2 FirstStageYinnerOutputLoad2 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=70e-6
mDiodeTransistorNmos4 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 sourceNmos sourceNmos nmos4 L=2e-6 W=23e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=17e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=84e-6
mNormalTransistorNmos8 out FirstStageYinnerOutputLoad2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=70e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=362e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack1Load2 sourceNmos sourceNmos nmos4 L=2e-6 W=23e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=228e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=228e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=4e-6 W=78e-6
mNormalTransistorPmos14 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=304e-6
mNormalTransistorPmos15 FirstStageYinnerOutputLoad2 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=304e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=53e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=53e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp77

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 2.35501 mW
** Area: 5609 (mu_m)^2
** Transit frequency: 18.2641 MHz
** Transit frequency with error factor: 18.2643 MHz
** Slew rate: 14.7244 V/mu_s
** Phase margin: 83.6519°
** CMRR: 145 dB
** VoutMax: 3.81001 V
** VoutMin: 0.960001 V
** VcmMax: 4.93001 V
** VcmMin: 1.44001 V


** Expected Currents: 
** NormalTransistorNmos: 40.3841 muA
** NormalTransistorPmos: -123.464 muA
** NormalTransistorPmos: -210.316 muA
** NormalTransistorPmos: -123.464 muA
** NormalTransistorPmos: -210.316 muA
** DiodeTransistorNmos: 123.465 muA
** DiodeTransistorNmos: 123.464 muA
** NormalTransistorNmos: 123.465 muA
** NormalTransistorNmos: 123.464 muA
** NormalTransistorNmos: 173.702 muA
** NormalTransistorNmos: 173.701 muA
** NormalTransistorNmos: 86.8511 muA
** NormalTransistorNmos: 86.8511 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 10.0001 muA
** DiodeTransistorPmos: -40.3849 muA
** DiodeTransistorPmos: -40.3839 muA


** Expected Voltages: 
** ibias: 1.18801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** outSourceVoltageBiasXXpXX1: 3.96301  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad2: 1.36901  V
** innerStageBias: 0.457001  V
** innerTransistorStack1Load2: 0.760001  V
** innerTransistorStack2Load2: 0.759001  V
** sourceGCC1: 3.75  V
** sourceGCC2: 3.75  V
** sourceTransconductance: 1.94501  V


.END